US05817654
A solution of 3-tert-butyloxycarbonylamino-3-methylbutanoic acid (2.43 g, 11.2 mmol) and 1-hydroxybenzotriazole (1.52 g, 11.3 mmol) in DMF (30 ml) was placed under an atmosphere of nitrogen. EDAC (2.19 g, 11.4 mmol) was added and the reaction mixture was stirred for 10 minutes at room temperature. Unresolved 3-amino-4-oxo-2,3,4,5-tetrahydro-1H-naphtho[2,1-b]- azepine (2.3 g, 10.2 mmol) was added and the reaction mixture was stirred overnight at room temperature. The reaction mixture was poured into water (200 ml) and the solution was extracted with dichloromethane (2×250 ml). The combined organic extracts were washed with 10% sodium bicarbonate (2×150 ml) and dried (MgSO4). The solvent was evaporated in vacuo to give a solid residue which was suspended in diethyl ether. Filtration and drying afforded 4.5 g of (1,1-dimethyl -2-(4-oxo-2,3,4,5-tetrahydro-1H-naphtho[2,1-b]azepin-3-ylcarbamoyl)ethyl)carbamic acid tert-butyl ester.

reactant | 3-tert-butyloxycarbonylamino-3-methylbutanoic acid | 11.2 mmol, 2.43 g | C(C)(C)(C)OC(=O)NC(CC(=O)O)(C)C | C10H19NO4
reactant | 1-hydroxybenzotriazole | 11.3 mmol, 1.52 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | EDAC | 11.4 mmol, 2.19 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | 3-amino-4-oxo-2,3,4,5-tetrahydro-1H-naphtho[2,1-b]- azepine | 10.2 mmol, 2.3 g | NC1CCC2=C(NC1=O)C=CC1=CC=CC=C12 | C14H14N2O
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | water | 200 ml | O | H2O
product | (1,1-dimethyl -2-(4-oxo-2,3,4,5-tetrahydro-1H-naphtho[2,1-b]azepin-3-ylcarbamoyl)ethyl)carbamic acid tert-butyl ester | 4.5 g | C(C)(C)(C)OC(NC(CC(NC1CCC2=C(NC1=O)C=CC1=CC=CC=C12)=O)(C)C)=O | C24H31N3O4
